US09403831B2
(S)-tert-butyl 2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholine-4-carboxylate (16.4 g, 54.69 mmol) was dissolved in EtOH (500 ml), and 5-bromo-2-chloropyrimidine (12.7 g, 65.62 mmol) and DIPEA (47.6 g, 273.45 mmol) were added, followed by 50° C. for 9 hours. After the completion of the reaction, the reaction mixture was recrystallized with EtOH to give (S)-4-(5-bromopyrimidin-2-yl)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholine (18.7 g, 75%).

reactant | (S)-tert-butyl 2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholine-4-carboxylate | 54.69 mmol, 16.4 g | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@@H]2CN(CCO2)C(=O)OC(C)(C)C | C18H24N8O3
reactant | 5-bromo-2-chloropyrimidine | 65.62 mmol, 12.7 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | DIPEA | 273.45 mmol, 47.6 g | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 500 ml | CCO | C2H6O
product | (S)-4-(5-bromopyrimidin-2-yl)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholine | 18.7 g, 75% | BrC=1C=NC(=NC1)N1C[C@H](OCC1)CN1N=NC=2C1=NC(=CN2)C=2C=NN(C2)C | C17H17BrN10O
